
.SUBCKT SR_LATCH S R Q Qb params: VHIGH = 5
R1 S 0 10Meg
R2 R 0 10Meg
B1 Q 0 V=IF((V(R) < VT) & ((V(S) > VT) | (V(Qb)<VT)), VHIGH, 0)
B2 Qb 0 V=IF((V(R) > VT) | ((V(Q) < VT) & (V(S)<VT)), VHIGH, 0)
.param VT = VHIGH/2
.backanno
.end SR_LATCH
