
.SUBCKT TL431_G k a ref
G1 a 2 5 ref -250u
Q1 k 2 1 QN3904
R1 1 7 240
R2 7 a 6.6k
Q2 k 7 a QN3904 50
D1 ref k DN4148
C2 7 a 1n
D2 a k D2_mod
C1 k 2 43p
V1 5 a DC=2.49
D3 a 2 D3_mod
.MODEL QN3904 NPN AF=1.0 BF=300 BR=7.5 CJC=3.5PF CJE=4.5PF
+ IKF=.025 IS=1.4E-14 ISE=3E-13 KF=9E-16 NE=1.5 RC=2.4
+ TF=4E-10 TR=21E-9 VAF=100 XTB=1.5
.MODEL DN4148 D BV=100V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
.MODEL D2_mod D BV=36 CJO=4PF IS=7E-09 M=.45 N=1.3 RS=.8
+ TT=6E-09 VJ=.6V
.MODEL D3_mod D N=0.01
.ENDS
