.SUBCKT PWMCCMVM A C P d
B1 A P I=V(d)*I(VM)
B2 N001 P V=V(d)*V(a,p)
VM N001 C 0
R1 d 0 10Meg
* the duty ratio (1 V represents 100% so 0.4 is 40%)
.END PWMCCMVM
